US07276516B2
4-(3-Cyclopentyl-indole-1-sulfonyl-N-pyridin-3ylmethyl-benzamide
Add to a stirring mixture of 4-(3-cyclopentyl-indole-1-sulfonyl)-benzoic acid (0.188 g, 0.50 m mol), PyBOP (0.0.288 g, 0.50 m mol), and 3-amino-pyridine (0.063 g, 0.59 mmol) in dry CH2Cl2 (10 mL) under N2, Hunigs base (0.148 g, 0.200 mL, 1.11 m mol.). Stir the reaction is overnight at ambient temperature and evaporate on the rotary evaporator. Chromatograph the residue on the ISCO system using a 40 g column and a hexane-EtOAc gradient system (0-100%) to give 0.048 g of the title compound as white foam: Mass spectrum (m/e) (M+H) 460.1697; found 460.1681.

reactant | 4-(3-cyclopentyl-indole-1-sulfonyl)-benzoic acid | 0.188 g | C1(CCCC1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C20H19NO4S
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 3-amino-pyridine | 0.59 mmol, 0.063 g | NC=1C=NC=CC1 | C5H6N2
reactant | Hunigs base | 0.200 mL, 0.148 g | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-Cyclopentyl-indole-1-sulfonyl-N-pyridin-3ylmethyl-benzamide | 0.048 g | C1(CCCC1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=C(C(=O)NCC=2C=NC=CC2)C=CC=C1 | C26H25N3O3S
